US07456169B2
5-(chloromethyl)-1-methyl-1H-imidazole hydrochloride
A mixture of (1-methyl-1H-imidazol-5-yl)methanol (500 mg, 4.5 mmol) in DMF (5 mL) at −5° C. was slowly treated with thionyl chloride (0.49 mL, 6.7 mmol), stirred an additional 10 minutes at −5° C., warmed to room temperature, stirred 1.5 hours, cooled to −5° C., quenched with isopropyl alcohol and ethyl acetate, stirred 30 minutes at −5° C., concentrated under vacuum, and filtered to collect the solid. The solid was rinsed with ethyl acetate and dried under vacuum to give (212 mg, 28%) of the desired product as the hydrochloride salt. MS (DCI) m/e 131 (M+H)+; 1H NMR (300 MHz, DMSO-d6) □ 9.10 (s, 1H), 7.76 (s, 1H), 5.02 (s, 2H), 3.88 (s, 3H).

reactant | (1-methyl-1H-imidazol-5-yl)methanol | 4.5 mmol, 500 mg | CN1C=NC=C1CO | C5H8N2O
reactant | thionyl chloride | 6.7 mmol, 0.49 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(chloromethyl)-1-methyl-1H-imidazole hydrochloride | 212 mg, 28% | Cl.ClCC1=CN=CN1C | InChI=1S/C5H7ClN2.ClH/c1-8-4-7-3-5(8)2-6;/h3-4H,2H2,1H3;1H
